US04661602
A solution of ethyl 2-phenylprop-2-enoate (160 g, 0.45 mol), imidazole (36.7 g 0.54 mol) and tetramethylguanidine (2 g, 0.017 mol) in dry tetrahydrofuran (1 L) was heated at reflux temperature for 3 hours. The solvent was removed under reduced pressure and the residue was dissolved in dilute hydrochloric acid. The resulting aqueous solution was washed with ether, basified with dilute aqueous sodium hydroxide and extracted with chloroform. The organic phase was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to yield ethyl 3-(imidazol-1-yl)-2-phenylpropanoate (90 g).

reactant | ethyl 2-phenylprop-2-enoate | 0.45 mol, 160 g | C1(=CC=CC=C1)C(C(=O)OCC)=C | C11H12O2
reactant | imidazole | 0.54 mol, 36.7 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
catalyst | tetramethylguanidine | 0.017 mol, 2 g | CN(C(N(C)C)=N)C | C5H13N3
product | ethyl 3-(imidazol-1-yl)-2-phenylpropanoate | 90 g | N1(C=NC=C1)CC(C(=O)OCC)C1=CC=CC=C1 | C14H16N2O2
